US04399294
N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine
To a stirred solution of N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine (0.12 g) in tetrahydrofuran (1 ml) at room temperature was added 2 N hydrochloric acid (0.4 ml). After 20 min., a mixture of dimethylamine in ethanol (33%) (1 ml) and acetic acid (5 ml), evaporated to remove the ethanol, was added. The mixture was allowed to stand at room temperature for 20 min., then cooled in an ice bath. To the stirred solution was added sodium borohydride (0.4 g) portionwise during 5 min. After 10 min, acetic acid (1 ml) was added and the solution heated on a steam bath for 15 min. Tetrahydrofuran (30 ml) and excess of sodium carbonate were added and the mixture heated to boiling then cooled to room temperature. After 1 h, the mixture was filtered and the combined filtrate and washings evaporated in vacuo to give an oily residue which was extracted with hot ethyl acetate (25 ml). The extract was evaporated in vacuo to give an oily residue consisting of the title compound (0.06 g).

reactant | N-[2-[[5-(1,3-dioxolan-2-yl)-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.12 g | O1C(OCC1)C1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H19N3O5S
reactant | hydrochloric acid | 2 N, 0.4 ml | Cl | ClH
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-[2-[[5-[(Dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]-N'-methyl-2-nitro-1,1-ethenediamine | 0.06 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NC | C13H22N4O3S
